US06309795B1
A 1-liter flask was charged with 43.9 g (0.51 mol) of 3-methyl-2-buten-1-ol, 51.6 g (0.51 mol) of triethylamine and 300 ml of dichloromethane, and the mixture was cooled down to 0° C. While stirring the mixture at 0° C., 45.3 g (0.50 mol) of acryloyl chloride were added dropwise over 1 hour, and the mixture was stirred additionally for 5 hours at room temperature. Solids were separated by filtration from the resultant reaction mixture, and the filtrate was washed 3 times with water and then distilled in the presence of 5 g of p-methoxyphenol to obtain 50.5 g of 3-methyl-2-butenyl acrylate.

reactant | 3-methyl-2-buten-1-ol | 0.51 mol, 43.9 g | CC(=CCO)C | C5H10O
reactant | triethylamine | 0.51 mol, 51.6 g | C(C)N(CC)CC | C6H15N
reactant | acryloyl chloride | 0.50 mol, 45.3 g | C(C=C)(=O)Cl | C3H3ClO
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | 3-methyl-2-butenyl acrylate | 50.5 g | C(C=C)(=O)OCC=C(C)C | C8H12O2
